US07504392B2
c) 7-(3-Hydroxyphenylsulfonyl)-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
7-(3-t-Butyldimethysilyloxyphenylsulfonyl)-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (5.4 g, 10.5 mmol) was dissolved in a solution of tetra-n-butylammonium fluoride in tetrahydrofuran (15 mL, 1M, 15 mmol). The solution was stirred for 1 h then diluted with ethyl acetate (100 mL) and washed with saturated aqueous sodium hydrogen carbonate (100 mL), and brine (100 mL), dried (MgSO4), and evaporated.

reactant | 7-(3-t-Butyldimethysilyloxyphenylsulfonyl)-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 10.5 mmol, 5.4 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)S(=O)(=O)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C27H39NO5SSi
reactant | tetrahydrofuran | 15 mmol, 1M, 15 mL | O1CCCC1 | C4H8O
solvent | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(3-Hydroxyphenylsulfonyl)-3-(t-butoxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | OC=1C=C(C=CC1)S(=O)(=O)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H25NO5S
